US08865736B2
3-(4-Chloromethyl-thiazol-2-yl)-phenol
To a solution of 1,3 dichloroacetone (0.42 g, 3.26 mmol) in toluene (5 mL) was added 3-hydroxythiobenzamide (0.25 g, 1.63 mmol) and the reaction mixture was heated at 120° C. for 1 h. After completion of the reaction mixture (TLC monitoring), the reaction mixture was evaporated to dryness, added water and extracted with EtOAc (×3). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated. The crude residue was purified over silica gel (230-400 M, 10% EtOAc-Hexane) to get the desired product (0.14 g, 38%).

reactant | 1,3 dichloroacetone | 3.26 mmol, 0.42 g | ClCC(=O)CCl | C3H4Cl2O
reactant | 3-hydroxythiobenzamide | 1.63 mmol, 0.25 g | OC=1C=C(C(=S)N)C=CC1 | C7H7NOS
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Chloromethyl-thiazol-2-yl)-phenol | 0.14 g, 38% | ClCC=1N=C(SC1)C=1C=C(C=CC1)O | C10H8ClNOS
